Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Can I shake your hand?"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ single, male, ___ 
student with no past psychiatric or medical history, brought in 
by EMS/campus police when roommates reported bizarre behavior. 
.
Patient states that he does not believe that he has anything 
wrong with him, but that his friends were concerned that he was 
"moving fast." He speaks about the equation for "resolution" 
being atomic matter/volume = resolution, and that his resolution 
is higher than others so their "perception" is that he is moving 
fast. When asked about sleep, patient states that "2 minutes for 
___ people is equivalent to 4 hours for me because of the 
resolution." Denies SI, HI, AVH. ___ RN about timers, 
stopwatch, and clocks available on unit. Upon initial meeting, 
informs this writer and RN "I love you" and asks if writer has 
children. Patient is agreeable to take medications as he feels 
this will lower his resolution to others around him. 
.
ED Course: Received IM lorazepam 2mg, IM haloperidol 5mg when 
agitated, threatening to elope, unable to be redirected. No 
security or physical restraints. Oral lorazepam 1mg & quetiapine 
25mg were also given. Noted to be talkative, anxious, with 
bizarre behavior, and staring at cellphone timer. 
.
Per ___ MD's ___ initial ED consult note: "Mr. 
___ to go by ___ is a ___ year old 
third-semester single male student at ___, born in ___, 
with no known past medical or psychiatric history, who presents 
to the ___ ED requesting to speak with "the highest authority, 
specifically the president of the ___ because he "has 
the cure to cancer."
.
Upon approach and introducing myself to patient, Mr. ___ 
states that he is doing very well and excitedly shares that he 
has found a cure for cancer, as well as his discovery that "time 
does not exist" and a "new way to explain the world."
.
Patient is unable to identify stressors in the last few weeks, 
stating that in general he has been doing very well. He states 
that he enjoys school, seeing his friends, working out, and 
maintaining a healthy diet and he has continued to enjoy these 
things recently. He denies any stressors related to 
relationships, academics, health concerns, finances, etc. When 
asked about what could account for his change over the last few 
days, he is unable to articulate a clear precipitant.
.
Patient reports that he came to the hospital after he met with 
some of his friends in the presence of police officers. He 
states "I guess they were concerned about me." But notes that he 
feels perfectly normal right now. He does state, however, that 
he has noticed several changes over the last several days. 
Notably, he states that he has been sleeping less (reports "two 
minutes" of sleep last night, does not feel tired, has "more 
energy, more faith," "thinking 1000x faster than normal," 
endorses taking more risks than normal (though struggles to 
articulate what exactly those risks are), notes that he has been 
spending more money than usual (though is only able to name an 
___ ride as an excessive expense), speaking much more quickly 
than normal, and has a diminished appetite.
.
Patient denies requiring any help from physicians at this time, 
denying any symptoms that require treatment. He is at times 
difficult to follow and answers several of my questions with "I 
love you," discusses the law of thermodynamics, or simply states 
"I like your questions."
.
He denies AH/VH/delusions, anxiety, depression, 
hopelessness/worthlessness, SI/HI. He denies any drug use in the 
last couple weeks, noting that in the past he has used alcohol 
and marijuana but recently he has not even used caffeine. 
.
==========
COLLATERAL
==========
.
Per BEST, no record of having seen patient. 
.
___, NP, counselor on call at ___ (___ 
___ She does not personally know the patient. Per 
roommates: bizarre behavior concern for "psychotic break." No 
idea if this has happened before. Not known to counseling 
service. Told president of ___ he had cure for cancer 
yesterday. Ran out of appointment and ___ police started 
looking for him. For one day, nobody knew where he was or what 
he was doing, prior to being found at the ___. 
.
___, Lieutenant at ___ 
(___). Also history comes from roommates: 5 days ago, 
he started acting "erratic, delusional." Patient has always had 
a strict regimen on working out, studying religiously. He then 
stopped this regimen suddenly and started acting "delusional." 
He developed a sudden fixation on patents. Saying that he had a 
cure for cancer. On ___, went into the office of the 
president of ___ with a stack of papers with the "cure for 
cancer," then ran out. Not known to be talking to imaginary 
people. No expressed suicidal ideation (SI) or homicidal 
ideation (HI). Was found by roommates in ___ building, was 
going to "get in touch with nature" and ran out. Roommates 
approached ___, told public safety they would 
be meeting him by Fens. Upon approach, atient consented to going 
to ___. Otherwise, does very well in school, straight A's. Takes 
no medications or drugs. Not known to engage in risky behavior. 
No alcohol. This is the first known time he has exhibited this 
kind of behavior. Strict diet, no sugar. No known health issues. 

.
Spoke with roommates ___ (cell ___, ___, ___ in 
person. They reiterated much of the above history, agreeing with 
a timeline of ~5 days but noting that there were subtle changes 
earlier, including an increased interest in psychology as well 
as remarks about "feeling powerful." They note that there may be 
some stress at school related to finals season, and ___ 
seeing less of his friends due to academic requirements, though 
denied any ___ acute stressors that they were aware of. Noted 
that ___ rarely ever uses substances and has not used any 
substances for the last week. No evidence of SI/HI. They state 
that all this behavior is very atypical for ___, who is 
usually "straight to the point," "strict with himself," "nice," 
and "extremely hard working." 
.
Spoke with mother ___ (+___ 44 620 07), who again notes no 
known stressors, states that ___ had been doing well with a 
3.8 GPA. There are no known prior episodes of psychiatric 
illness.
.
==================
REVIEW OF SYSTEMS:
==================
-----------
PSYCHIATRIC
-----------
Positive per HPI.
.
Safety:
Denies suicidal ideation, homicidal ideation at present. He 
doesnote one prior episode of suicidal ideation when he was 
going through a "phase" as a teenager, when he "wasn't aware of 
reality," though he is unable to elaborate on this. He denies 
ever making a plan to end his life or any acts of self-harm.
.
Depression:
Denies depressed mood, anhedonia, psychomotor 
agitation/retardation, fatigue/loss of energy, 
worthlessness/guilt, diminished concentration, hopelessness
.
Mania:
Please see HPI
.
Psychosis:
Denies delusions, thought broadcasting/insertion, hallucinations
.
Substance Use:
Denies any recent substance use within the last couple weeks. 
Previously used marijuana/EtOH though unable to elaborate on the 
amount of use.
.
Anxiety spectrum:
Denies muscle tension, restlessness, panic attacks, agoraphobia.
.
Somatic/eating:
Mentions that he has a strict diet and tries to avoid sugar, but 
denied restrictive eating patterns, noting that he does not feel 
particularly hungry at the moment but is trying to eat more to 
gain muscle.
.
Cognitive:
Denies difficulty with language, memory, attention, 
hyperactivity."
.
General ROS: A 10-point ROS negative except for: constipation. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: None; mentions that he had "depression" and 
"anxiety" when he was ___ but states that these were 
short-lived emotional states that did not require treatment
- Hospitalizations: Denies
- Partial hospitalizations: Denies
- Psychiatrist: None ever
- Therapist: None ever 
- Medication trials: Denies
- ___ trials: Denies
- Suicide attempts: Denies
- Self-injurious behavior: Denies
- Harm to others: None known
- Trauma: Denies
- Access to weapons: Denies
.
PAST MEDICAL HISTORY:
Vertigo
.
MEDICATIONS:
None
.
ALLERGIES: 
NKDA     
.
SUBSTANCE USE HISTORY:
- Alcohol: Few drinks/month / Denies history of blackouts, 
alcohol withdrawal, DTs, seizures.
- Tobacco: None
- Marijuana: No recent use
- Heroin: Denies
- Opiates: Denies
- Benzos: Denies
- Cocaine: Denies
- Amphetamines/speed: Denies
- LSD/PCP: ___
- ___ Drugs: Denies
- Caffeine: Denies
.
FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): N/A
 
Social History:
SOCIAL HISTORY:
- Born/Raised: ___. Father, ___; mother, 
___. He states that he had an "excellent, five stars, 
rainbow" childhood-- he had friends and was close with his 
cousins but is
an only child. He notes many activities that he enjoyed growing 
up such as soccer and socializing. He denies any history of 
trauma, abuse, and cannot recall any particular negative 
memories from childhood noting that he always had friends and 
loving ___.
- Relationship status/Children: Single, no children. He has had 
romantic relationships in the past with women, though he is 
single now. His roommates note a relationship which ended ___ 
years ago which ___ is still heartbroken over.
- Primary Supports: ___, classmates/friends. 
- Housing: Lives with roommates.
- Education: B+ student before college, A's at ___, 
sophomore studying ___. Also plays piano, electric 
guitar and especially enjoys metal music.
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: Denies
- Suicide Attempts/Completed Suicides: Denies
- Substance Use Disorders: Denies
 
Physical Exam:
===EXAM ON ADMISSION===
Vitals: T: 98.5, BP: 124/75, HR: 130, RR: 16, SpO2: 97% on RA 
HRs ___ in ED. 
.
Height: 70"
Weight: 72kg
.
Physical Exam: 
GEN: young man, wearing hospital gown, no acute distress
HEENT:  Normocephalic, atraumatic. Moist mucous membranes. 
Anicteric sclera. 
CV:  Fast rate, normal S1, S2. No murmurs/rubs/gallops. 
RESP: Non-labored. Clear to auscultation bilaterally, 
transmitted
upper airway sounds. No wheezes/rales/rhonchi.  
ABD: Soft, non-tender, non-distended. Positive bowel sounds
EXT: Warm and well perfused. No gross deformity. No peripheral 
edema.
SKIN: No rashes or lesions noted.
.
Neurological Exam: 
- Cranial nerves: 
  II: PERRLA
  III, IV, VI: extraocular movements intact. no nystagmus.
  V: facial sensation to touch equal in all 3 divisions 
bilaterally
  VII: face symmetric  on eye closure and smile
  VIII: hearing normal bilaterally to rubbing fingers
  IX, X: palate elevates symmetrically
  XI: head turning and shoulder shrug intact
  XII: tongue midline. 
- Reflexes: 2+ and symmetrical biceps, brachioradialis, 
patellar. Patient initially with 3+/clonus on reflex testing, 
mild delay, but also with similar response with arbitrary 
striking of anterior shin; appears volitional.
- Motor:  ___ biceps, triceps, iliopsoas, quadriceps, 
hamstrings. Normal bulk. 
- Sensation: intact and symmetric to light touch. 
- Gait and station:  Good initiation. Narrow-based gait, normal 
stride and arm-swing. No ataxia noted. Normal coordination of 
finger to nose and heel to shin testing. 
- Abnormal movements:  No tremor or abnormal movements 
appreciated.
.
Cognition: Per initial ED consult by ___ on ___
"- Wakefulness/alertness: awake and alert
 - Attention: MOYB through ___ before stating that the exercise 
was "making me upset" and stops
 - Orientation: 
      - (does not know which hospital he is at), ___
      - ___
 - Memory: ___ recall of Chair, Hat, ___
 - Fund of knowledge: 
      - consistent with education: "___, ___... I don't 
know... I don't really care about these things"
      - identifies Hamlet as play by ___
 - Calculations: "9 quarters = 2.25"
 - Abstraction: Grass is greener on the ___ side = "it means 
nothing" 
 - Language: Born in ___, though speaks ___ fluently, no 
paraphasic errors, appropriate to conversation"
.
Mental Status:
- Appearance: young man appearing stated age, wearing hospital 
gown, in no apparent distress, sleepy
- Behavior: Sitting upright to answer questions, appropriate eye 
contact; then repeatedly resting forehead on table. No 
psychomotor agitation or slowing
- Attitude: Cooperative, engaged, pleasant, forthcoming.
- Mood: "normal"
- Affect: Mood-congruent, reactive, euthymic
- Thought process: Tangential, disorganized. Loose associations.
- Thought Content: Fixated on concepts of time, perception, 
resolution
  Safety: Denies SI/HI
  Delusions: No evidence of paranoia, etc. 
  Obsessions/Compulsions: No evidence based on current encounter
  Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
  Insight / Judgment: Limited / Poor
.
.
===EXAM AT DISCHARGE===
Vitals:
.

Mental Status:
-Appearance: young man with messy hair and beard, appearing
stated age, wearing casual clothes, in no acute distress
-Behavior: Sitting in chair, appropriate eye contact, some
psychomotor slowing
-Attitude: Cooperative, engaged, friendly, but tired-looking
-Mood: "happy, normal"
-Affect: Mood-congruent, euthymic but blunted, appropriate to
situation
-Speech: Normal rate, volume, and tone;
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: per HPI
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, or ___ delusions
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair
 
Pertinent Results:
___ 06:51PM BLOOD WBC-6.8 RBC-5.40 Hgb-16.2 Hct-46.8 MCV-87 
MCH-30.0 MCHC-34.6 RDW-12.0 RDWSD-38.3 Plt ___
___ 06:51PM BLOOD Neuts-68.8 ___ Monos-10.3 
Eos-0.4* Baso-0.6 Im ___ AbsNeut-4.68 AbsLymp-1.33 
AbsMono-0.70 AbsEos-0.03* AbsBaso-0.04

___ 06:51PM BLOOD Glucose-105* UreaN-12 Creat-1.1 Na-140 
K-4.0 Cl-99 HCO3-23 AnGap-18

___ 06:51PM BLOOD ALT-17 AST-36 LD(LDH)-245 AlkPhos-71 
TotBili-4.0*
___ 06:51PM BLOOD Albumin-5.3* Calcium-10.0 Phos-3.0 Mg-2.0 
Cholest-162

___ 06:51PM BLOOD Triglyc-67 HDL-44 CHOL/HD-3.7 LDLcalc-105
___ 05:10PM BLOOD %HbA1c-4.5 eAG-82

___ 06:51PM BLOOD VitB12-496
___ 06:51PM BLOOD TSH-2.6

___ 06:51PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:51PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was placed on 15 minute checks 
status (least restrictive) on admission and remained on that 
level of observation throughout while being unit restricted. 
There were no behavioral issues concerns during this 
hospitalization.
.
2. PSYCHIATRIC:
#) Bipolar I Disorder, current episode manic with psychotic 
features
On admission to the inpatient unit on ___ Mr. ___ 
indicated that he was brought in by EMS from school due to 
concern expressed by his friends/roommates. Patient was denying 
any concerns related to his mental health or physical health. 
However, he did endorse very little sleep (several minutes per 
night), low appetite, high energy, "great" mood, and racing 
thoughts with goal-directed behaviors. Collateral from friends 
and ___ counselor was concerning for 5-day history of 
erratic behavior, grandiose delusions of curing cancer, dramatic 
change from baseline - generally patient is a very diligent and 
organized student.. His exam was notable for pressured, loud 
speech, labile affect, and non-linear, tangential thought 
process, but able to be redirected. Thought content with 
prominent delusional beliefs about time travel, epiphanies about 
cancer cure, being embodied by dead spirits, manipulating own 
hormone levels. Mr. ___ denied perceptual disturbances and 
did not appear to be overtly internally preoccupied. Denied 
suicidal ideation or thoughts/urges to engage in self-harm or 
harm others. Cognitive exam with inattention and mild 
disorientation. 
.
Overall, patient's presentation appeared most consistent with a 
manic episode with psychotic features. Given his history of 
major depressive episode in high school, the diagnosis is most 
likely bipolar disorder, current manic episode. Less likely to 
be an underlying medical etiology: vitals and labs were within 
normal limits, including patient's TSH, and patient did not 
endorse any physical complaints). Furthermore, there are no 
reports of recent substance use and toxicology screens were 
negative, making it unlikely for this to be substance-induced 
mania. 
.
Patient was started on risperidone and lorazepam in order to 
address his insomnia, racing thoughts, and his psychotic 
symptoms (tangentiality, delusions). The final medication 
regimen at discharge was risperidone 0.5mg PO qAM + risperidone 
1.5mg PO qHS, along with lorazepam 0.5mg PO qHS. Lorazepam 0.5mg 
PO daily PRN for insomnia was also provided.
.
Within 2 days of initiation of treatment, Mr. ___ reported 
resolution of insomnia and racing thoughts, and improvement in 
appetite. Exam showed resolution of pressured speech and 
affective lability. Thought process became linear, goal-directed 
and thought content became devoid of delusions. Mr. ___ 
engaged in extensive conversations about mania and bipolar 
disorder, showing good insight into his symptoms. His judgment 
was also very good, as he asked many pertinent questions and 
engaged in discussions about ways to prevent recurrence of 
symptoms: such as being adherent with medications, avoiding 
alterations in his circadian sleep-cycle, and avoiding substance 
use. On day of discharge, patient exhibited mood congruent 
euthymic affect with future oriented thought content.
.
As discussed, once Mr. ___ starts seeing a psychiatrist in 
___, we recommend that he start taking a mood stabilizer 
(such as Lithium) in order to be protected from future episodes 
of depression an mania.
.
3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any substance use disorders, and  
therefore did not require any counseling or treatment in this 
regard.
.
4. MEDICAL
#) No acute or chronic medical problems. Initial EKG was notable 
for sinus tachycardia (107 bpm) with occasional premature 
ventricular complexes. His tachycardia resolved by the time of 
discharge. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focus on teaching 
patients various coping skills. Mr. ___ attended and 
participated in groups. When not in groups, he spent time in the 
milieu engaging appropriately with peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal permission for the team to contact his 
mother ___ +90 532 44 620 07) and father ___ +90 532 37 
372 55) who were given an update on his progress while admitted 
and  his discharge plan. Additionally, the patient's father came 
in for a family meeting with the patient and the team; mother 
called into the meeting using video-conferencing. During the 
meeting, the psychiatry team provided psychoeducation regarding 
patient's diagnosis, pharmacologic treatment, necessary 
lifestyle modifications to prevent future recurrences, 
signs/symptoms to look out for in the future for both manic and 
depressive episodes. We also discussed the importance of close 
follow up with a psychiatrist. Mr. ___ and his ___ 
described that patient will be taking a medical leave of absence 
from school in the ___ semester. He will be flying out 
to ___ on ___ together with his father. ___ reported 
that patient's maternal aunt is a ___ and will 
be able to set up an appointment with a trusted psychiatrist in 
___. They also expressed interest in finding a therapist 
for Mr. ___ so that he can work in therapy using his native 
language. 
.
#) INTERVENTIONS
- Medications: Risperidone 0.5mg PO qAM + risperidone 1.5mg PO 
qHS, along with lorazepam 0.5mg PO qHS. Lorazepam 0.5mg PO daily 
PRN for insomnia was also provided.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Mr. ___ be flying out to 
___ on ___ together with his father. The psychiatry team 
strongly recommended that they find a psychiatrist and therapist 
upon his return home to ___. ___ reported that patient's 
maternal aunt is a clinical psychologist and will be able to set 
up an appointment with a trusted psychiatrist in ___. They 
also expressed interest in finding a therapist for Mr. ___ so 
that he can work in therapy using his native language. 
.
INFORMED CONSENT: Risperidone, Lorazepam
The team discussed the indications for, intended benefits of,  
and possible side effects and risks of starting this medication, 
 and risks and benefits of possible alternatives, including not  
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as  
well as the importance of the patient's actively participating  
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.
.
RISK ASSESSMENT& PROGNOSIS
On presentation, Mr. ___ was evaluated and felt to be at 
increased risk of harm to self due to acute manic presentation, 
impulsivity, disinhibition, and limited insight and judgment, in 
addition to a series of ___ risk factors, as detailed below:
.
Mr. ___ static risk factors noted at that time include male 
gender, adolescent age, single relationship status.
.
The modifiable risk factors identified were as such: psychosis, 
disorganized and unpredictable behavior, impulsivity, poorly 
controlled mental illness, no established outpatient providers, 
poor reality testing, insomnia, limited coping skills. These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with  
psychiatrists, and presence on a social milieu environment.
.  
Mr. ___ is being discharged with several protective factors, 
including sense of responsibility to family, help-seeking 
behavior, life satisfaction, future-oriented viewpoint, strong 
social supports, lack of suicidal ideation, medication 
adherence, no prior suicide attempts/self-injurious behavior, 
spirituality, no chronic substance use, no access to lethal 
weapons, reality-testing ability, good coping skills, good 
problem-solving skills; Overall, based on the totality of our 
assessment at  this time, Mr. ___ does not manifest symptoms 
of acute psychiatric illness; he does not exhibit symptoms 
consistent with decompensated affective or psychotic illness. He 
is not at an acutely elevated risk of harm to herself nor a 
danger to others. He no longer requires ongoing inpatient 
hospitalization.
. 
Furthermore, Mr. ___ possesses the preserved capacity to  
engage in a meaningful discussion about safety planning in the  
event that symptoms of depression worsen or suicidal or  
homicidal ideation arise in the future (e.g. patient reported 
that she would reach out to his family, would reach out to his 
future providers, call ___ (or ___ equivalent), or go to the 
nearest emergency room). Our Prognosis of this patient is good. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 0.5 mg PO QHS 
RX *lorazepam 0.5 mg 1 tablet by mouth at bedtime Disp #*45 
Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO QAM 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth see below 
Disp #*60 Tablet Refills:*0; TAKE 0.5 TABLETS IN THE MORNING and 
1.5 TABLETS AT NIGHT
3.  RisperiDONE 1.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar I Disorder, Most Recent Episode Manic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Vitals: ___ 0754 Temp: 98.2 PO BP: 104/65 HR: 71 RR: 18 O2 
sat: 98%
.
Mental status: Alert and oriented x4. Appropriate hygiene and 
grooming, good engagement in the interview, euthymic, 
full-range, mood-congruent affect, and normal speech, without 
paraphasias. Thought process was linear, goal-directed and 
future-oriented. Thought content was without delusions, AVH, or 
thoughts of self-harm or harm to others. Mr. ___ engaged in 
conversation about safety planning and accessing appropriate 
resources in the event of a crisis after discharge.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or ___ providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___